US06911468B2
(2) 4-(4′-methoxyphenyl)benzylalcohol
Methyl 4-(4′-methoxyphenyl)benzoate (3.0 g, 12.3 mmol) was added in portions to a suspension of lithium aluminum hydride (0.94 g, 25.0 mmol) in tetrahydrofuran (40 ml) at room temperature for 20 minutes with stirring. The reaction solution was refluxed for 2 hours under heating and cooled to 0° C. To the residue was added water (1 ml) and 1 N aqueous sodium hydroxide (3 ml), the insoluble matter was filtered out and the filtrate was concentrated under reduced pressure. The object compound (1.2 g) was obtained from the residue as colorless crystals.

reactant | Methyl 4-(4′-methoxyphenyl)benzoate | 12.3 mmol, 3.0 g | COC1=CC=C(C=C1)C1=CC=C(C(=O)OC)C=C1 | C15H14O3
reactant | lithium aluminum hydride | 25.0 mmol, 0.94 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1 ml | O | H2O
reactant | sodium hydroxide | 1 N, 3 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-(4′-methoxyphenyl)benzylalcohol | 1.2 g | COC1=CC=C(C=C1)C1=CC=C(CO)C=C1 | C14H14O2
